* Z:\home\fabio\Laboratorio_3\Diodo\circuito_1_lab_1.asc
V1 N001 0 PULSE(0 1 0 100m 0 0 100m)
R1 N002 N001 10k
D1 N002 0 1N4148
.model D D
.lib C:\users\fabio\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200m
.backanno
.end
