* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Diodo\circuito_2_lab_1.asc
V1 N001 0
R2 N002 0 4.7k
R1 N002 N001 12k
R3 Vd N002 4.7k
R4 Vd 0 8.2k
D1 Vd 0 myDiode
.model D D
.lib C:\Users\berto\OneDrive\Documenti\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 10 0.01
.model myDiode D(Is=1.9312n N=1.822 mfg=unipd type=silicon)
.backanno
.end
