* \\wsl$\Ubuntu-20.04\home\fabiocufino\Laboratorio_3\Diodo\circuito_3_lab_1.asc
V1 N002 0 SINE(0 5 10k)
R1 N001 A 1k
R3 B 0 1k
R2 B A 1k
R4 OUT B 100k
D1 OUT N003 1N4148
V2 N003 0 2.5
C1 A N002 0.47µ
V3 N001 0 12
.model D D
.lib C:\Users\fabio\OneDrive - Università degli Studi di Padova\Documenti\LTspiceXVII\lib\cmp\standard.dio
.tran 1ms
.backanno
.end
