* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_03\Circuiti\Circ_1.asc
C2 0 N002 0.1µ
V1 0 N002 +15
V2 N001 0 +15
Rin IN A 55.31k
Rf_pre OUT A 681.1k
C1 N001 0 0.1µ
XU2 0 A N001 N002 OUT level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Vin IN 0 PULSE(0 -1 0 1n 1n 5u)
Cf_pre OUT A 218p
.tran 1000u
.lib UniversalOpamp.lib
.backanno
.end
