* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_02\Circuiti\Circuito1_ac_time.asc
C2 0 N004 0.1µ
V1 0 N004 +15
V2 N001 0 +15
Rg Vin N002 50
R1 Vin N003 10k
Rf OUT N003 68k
V3 N002 0 SINE(0 5 1k)
R50 Vin 0 50
C1 N001 0 0.1µ
XU2 0 N003 N001 N004 OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 3m
.lib UniversalOpamps2.sub
.backanno
.end
