* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_02\Circuiti\Circuito3_ac_time.asc
C2 0 N005 0.1µ
V3 0 N005 +15
V4 N001 0 +15
Rg2 V2 N002 50
R1b V2 N003 10k
Rf_sum OUT N003 10k
V2 N002 0 SINE(0 1 1.07k)
R50b V2 0 50
C1 N001 0 0.1µ
XU2 0 N003 N001 N005 OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Rg1 V1 N004 50
R1 V1 N003 10k
V1 N004 0 SINE(0 1 1k)
R50 V1 0 50
.tran 60m
.lib UniversalOpamps2.sub
.backanno
.end
