* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Diodo\circuito_2_lab_1.asc
V1 VIN 0 SINE(0 10 100 0 0 0 1000)
R2 N001 0 4.63k
R1 N001 VIN 11.913k
R3 Vd N001 4.67k
R4 Vd 0 8.04k
D1 Vd 0 myDiode
.model D D
.lib C:\Users\berto\OneDrive\Documenti\LTspiceXVII\lib\cmp\standard.dio
;.dc V1 0 10 0.01
.model myDiode D(Is=1.9312n N=1.822 mfg=unipd type=silicon)
.tran 30m
.backanno
.end
